US07148226B2
3-(6-Chloro-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-6-cyclopentyl-6-[2-(2,4-dimethoxy-phenyl)-ethyl]-4-hydroxy-5,6-dihydro-pyran-2-one
The title compound was prepared analogously to Example B(97), where 6-Chloro-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde was substituted in place of 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde and 6-Cyclopentyl-6-[2-(2,4-dimethoxy-phenyl)-ethyl]4-hydroxy-5,6-dihydro-pyran-2-one was substituted in place of 6-[2-(3-Chloro-5-ethyl-4-methoxy-phenyl)-ethyl]6-cyclopentyl-dihydro-pyran-2,4-dione of that example. 1H NMR (400 MHz, DMSO-d6): δ 1.51–1.73 (m, 9H), 1.92–1.98 (m, 2H), 2.38–2.58 (m, 3H), 2.79 (d, J=16 Hz, 1H), 3.71 (s, 2H), 3.73 (s, 6H), 6.40–6.5 (m, 2H), 7.03 (d, J=8 Hz, 1H), 8.89 (d, J=2.6 Hz, 1H), 9.52 (d, J=2.6 Hz, 1H), 10.9 (s, 1H). Anal. Calcd. For C26H29ClN4O5.0.25H2O: C, 60.35; H, 5.75; N, 10.83. Found: C, 60.40; H, 5.65; N, 10.74. MS (ESI): 513 (M+H)+.

reactant | 6-Chloro-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | ClC=1C=NC=2N(C1)N=C(N2)C=O | C6H3ClN4O
reactant | 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
reactant | 6-Cyclopentyl-6-[2-(2,4-dimethoxy-phenyl)-ethyl]4-hydroxy-5,6-dihydro-pyran-2-one | C1(CCCC1)C1(CC(=CC(O1)=O)O)CCC1=C(C=C(C=C1)OC)OC | C20H26O5
reactant | 6-[2-(3-Chloro-5-ethyl-4-methoxy-phenyl)-ethyl]6-cyclopentyl-dihydro-pyran-2,4-dione | ClC=1C=C(C=C(C1OC)CC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C21H27ClO4
product | 3-(6-Chloro-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-6-cyclopentyl-6-[2-(2,4-dimethoxy-phenyl)-ethyl]-4-hydroxy-5,6-dihydro-pyran-2-one | ClC=1C=NC=2N(C1)N=C(N2)CC=2C(OC(CC2O)(CCC2=C(C=C(C=C2)OC)OC)C2CCCC2)=O | C26H29ClN4O5
